Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with recurrent ovarian cancer on 
carboplatin C3D10.

The patient has been feeling unwell since yesterday. She is 
having increasing sharp pains in the stomach, though she has had 
stomach pains before. She is feeling malaise and weakness; she 
was so weak at home that she nearly fell today. She also has a 
headache. 

She felt constipated and took colace, and then had a bowel 
movement. She denies nausea/vomiting. She is eating/drinking but 
feels dehydrated.

She hasn't checked her temperature but has been having chills. 
 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.  
 
PAST ONCOLOGIC HISTORY:
- ___ presented at ___ with acute RLQ 
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst 
removed with intra-operative rupture, by report there was no 
ovarian surface involvement by tumor. ___ path review: high 
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with TAH/BSO, pelvic tumor resection, total pelvic 
lymphadenectomy, para-aortic LN resection, infracolic 
omemtectomy, peritoneal biopsies: ovarian serous carcinoma, no 
positive LNs, right pelvic sidewall positive for carcinoma, 
grade 3, with positive washings, thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ 
___ possible surgical resection
- ___ Diagnostic laparoscopy, resection of pelvic nodule.
- ___- C1D1 Carboplatin AUC 4 every 4 weeks
- ___- Carboplatin changed to Q5 weeks due to 
thrombocytopenia
- ___ C4D1 
- ___ Type and Screen revealed Anti-C antibody
- ___ CT torso- no evidence of local recurrent or 
metastatic disease within the abdomen or pelvis. Stable left 
pelvic sidewall nodule and adjacent external iliac lymphocele. 
Given treatment break.
- ___  Percutaneous pinning left femoral neck
- ___ slight rise in CA125 from 16 to 22. 
- ___ Start C1 Carboplatin AUC 5- c/b chest pain- sent to ED 
with negative cardiac w/u
- ___ C2 Carboplatin 
- ___ C3 HELD d/t thrombocytopenia
 
Past Medical History:
- Developmental delay with learning disability attributed to 
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
FH:
No cancer in first degree relatives. 

 (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vitals:  98.2 ___ 14 98% Ra 
General:  Resting comfortably in bed, NAD
HEENT:  MMM, no OP lesions
Eyes: anincteric
CV:  RRR, NL S1S2
PULM:  CTAB
ABD:  Soft, moderately tender to palpation in the lower 
quadrants, no rebound or guarding, no masses or 
hepatosplenomegaly
LIMBS:  Mild nonpitting bilateral lower extremity edema, no
clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits. 
Psych: normal affect and mood

DISCHARGE PHYSICAL EXAM:  
========================
PHYSICAL EXAM:  
VS: 110 / 60 90 18 97 Ra 
General:  Resting comfortably in bed, NAD
HEENT:  MMM, no OP lesions
Eyes: anincteric
CV:  RRR, NL S1S2
PULM:  CTAB
ABD:  Softly distended, moderately tender to palpation in the 
lower quadrants, hypoactive BS
LIMBS:  wwp
 
Pertinent Results:
ADMISSION LABS:
___ 09:18PM BLOOD WBC-5.2# RBC-3.31* Hgb-8.9* Hct-28.1* 
MCV-85 MCH-26.9 MCHC-31.7* RDW-18.6* RDWSD-54.2* Plt ___
___ 09:18PM BLOOD Neuts-67.1 ___ Monos-5.6 Eos-0.4* 
Baso-0.2 Im ___ AbsNeut-3.47# AbsLymp-1.36 AbsMono-0.29 
AbsEos-0.02* AbsBaso-0.01
___ 09:18PM BLOOD ___ PTT-40.1* ___
___ 09:18PM BLOOD Glucose-100 UreaN-11 Creat-0.8 Na-141 
K-3.6 Cl-100 HCO3-29 AnGap-12
___ 09:18PM BLOOD ALT-31 AST-22 AlkPhos-149* TotBili-0.3
___ 11:05AM BLOOD Albumin-3.5 Calcium-7.9* Phos-3.5 Mg-1.4*
___ 09:26PM BLOOD Lactate-1.2

INTERVAL LABS:
___ 11:05AM BLOOD ALT-30 AST-22 AlkPhos-125* TotBili-0.2
___ 11:05AM BLOOD TSH-2.3
___ 11:05AM BLOOD T4-6.8
___ 05:20PM BLOOD PTH-120*
___ 11:05AM BLOOD 25VitD-15*

DISCHARGE LABS:

___ 07:55AM BLOOD WBC-2.9* RBC-3.01* Hgb-8.2* Hct-26.1* 
MCV-87 MCH-27.2 MCHC-31.4* RDW-18.4* RDWSD-55.8* Plt ___
___ 07:55AM BLOOD Neuts-54.5 ___ Monos-7.9 Eos-0.3* 
Baso-0.3 AbsNeut-1.59* AbsLymp-1.08* AbsMono-0.23 AbsEos-0.01* 
AbsBaso-0.01
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-100 UreaN-9 Creat-0.9 Na-142 
K-4.0 Cl-101 HCO3-31 AnGap-10
___ 07:55AM BLOOD Calcium-8.6 Phos-3.3 Mg-2.3

IMAGING:

___ CT ABD/PELVIS WITH CONTRAST
IMPRESSION: 
1.  No acute intra-abdominal or intrapelvic process to explain 
the patient's symptoms.  The appendix is not directly 
visualized, but there are no secondary inflammatory findings of 
acute appendicitis.  No evidence of bowel dilation.
2.  A soft tissue nodule along the left pelvic sidewall, 
measuring 1.4 cm, is unchanged since ___.
3.  Post hysterectomy and bilateral salpingo-oophorectomy.
4.  Mild interval decrease in size of perisplenic lesion.

___ XR LEFT RIB
IMPRESSION: 
Technically limited examination.  There is no convincing 
evidence for the presence of osteolytic rib rib lesions.  The 
lung volumes are low.  No pleura effusions.  No pulmonary edema. 
 No pneumonia.  Borderline size of the cardiac silhouette.  
Correct position of a right pectoral Port-A-Cath.

___ BLE US
Negative for DVT
 
Brief Hospital Course:
___ is a ___ year old woman with a history of 
ovarian cancer, IBS, and depression who presented with abdominal 
pain. 

#ABDOMINAL PAIN: 
Felt to be secondary to cancer and worsening constipation. 
Abdominal imaging showed no acute process. We discovered that 
often during the week the patient does not take her bowel 
regimen because she is worried about having diarrhea at work. We 
went over with her how important it was to take her bowel 
regimen regularly to prevent constipation and abdominal pain 
this severe. We gave her an aggressive bowel regimen that 
included enemas and lactulose and after a few days she finally 
had a few bowel movements. Ultimately, no major changes to her 
pain regimen were made (morphine was tried but did not make a 
notable difference), other than adding gabapentin given that a 
large component of her abdominal pain was thought to be from 
abdominal hypersensitivity and related to her IBS. 

#DRY MOUTH: 
Stopped loratadine to minimize anticholinergic medication burden 
(was on loratadine and amitryptiline)

#LOW VITAMIN D: 
Started 50,000 IU weekly on ___ for 8 week course. Last 
day ___. Discontinued home dose of vitamin D 2,000 units 
daily. 

#LEFT LOWER RIB PAIN:
Initially concerning for metastases, though essentially r/o by 
XR. Likely secondary to splenic mass. 
TRANSITIONAL ISSUES: 
=
=
=
================================================================
[ ] Please ensure patient is taking her bowel regimen daily
[ ] Follow up pain control
[ ] Follow up dry mouth
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
3. Amitriptyline 25 mg PO QHS 
4. ARIPiprazole 2 mg PO QHS 
5. DULoxetine 120 mg PO DAILY 
6. Estrogens Conjugated 1 gm VG 1X/WEEK (MO) 
7. Gabapentin 600 mg PO QHS 
8. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
9. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
10. Loratadine 10 mg PO DAILY 
11. LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia 
12. Losartan Potassium 50 mg PO DAILY 
13. Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe 
14. Naproxen 500 mg PO Q12H:PRN Pain - Mild 
15. Omeprazole 40 mg PO DAILY 
16. Ondansetron 8 mg PO Q12H:PRN nausea 
17. Polyethylene Glycol 17 g PO DAILY 
18. Prochlorperazine 10 mg PO Q12H:PRN nausea 

 
Discharge Medications:
1.  Bisacodyl ___AILY:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally once a day Disp 
#*30 Suppository Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Psyllium Powder 1 PKT PO DAILY 
RX *psyllium husk (aspartame) [Natural Psyllium Fiber] 3.4 
gram/5.8 gram 1 powder(s) by mouth once a day Disp #*30 Packet 
Refills:*0 
4.  Gabapentin 300 mg PO QAM 
RX *gabapentin 300 mg 1 capsule(s) by mouth once a day in the 
morning Disp #*30 Capsule Refills:*0 
5.  Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth twice 
a day Disp #*60 Packet Refills:*0 
6.  Vitamin D ___ UNIT PO 1X/WEEK (MO) Duration: 8 Doses 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth once a week on ___ Disp #*7 Capsule Refills:*0 
7.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
8.  Amitriptyline 25 mg PO QHS  
9.  ARIPiprazole 2 mg PO QHS  
10.  DULoxetine 120 mg PO DAILY  
11.  Estrogens Conjugated 1 gm VG 1X/WEEK (MO)  
12.  Gabapentin 600 mg PO QHS  
13.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  

14.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
15.  LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia  
16.  Losartan Potassium 50 mg PO DAILY  
17.  Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe  
18.  Naproxen 500 mg PO Q12H:PRN Pain - Mild  
19.  Omeprazole 40 mg PO DAILY  
20.  Ondansetron 8 mg PO Q12H:PRN nausea  
21.  Prochlorperazine 10 mg PO Q12H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Severe constipation
SECONDARY: Ovarian cancer, IBS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for abdominal pain. 

We believe that your abdominal pain was primarily caused by 
severe constipation. We gave you many medications and encouraged 
you to walk, and once you had a bowel movement you felt better.

When you go home, it is important to: 
1. Take your constipation medications every day. We absolutely 
understand that you are worried about having diarrhea, but if 
you miss these medications you ___ develop painful constipation 
like this again. 
   ***Your constipation medications that you should take every 
day are: Miralax twice a day, Colace twice a day, Psyllium once 
a day
   ***If you are taking these medications and are still 
constipated, you should use a Dulcolax suppository once a day 
until you have a bowel movement

2. Keep walking around as much as you can. The exercise is 
healthy and will help keep your bowel movements regular.
3. Please read your discharge summary below and look for 
medication changes and upcoming doctor appointments. 

It was a pleasure caring for you,
Your ___ Team
 
Followup Instructions:
___